US06603012B2
3.1. Preparation of (RS)-4-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-heptanoyloxy]-benzoic Acid
403 mg of (RS)-Benzyl-4-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-heptanoyloxy]-benzoate in 10 ml of ethyl acetate with 80 mg of palladium on carbon (10% w/w) was subjected to an atmospheric pressure of hydrogen for 1 hour. The mixture was filtered over Celite and washed with about 10 ml ethyl acetate. The solution was evaporated, giving a colorless oil. Trituration in pentane gave a white amorphous solid, 303 mg, m.p. 133-135° C.

reactant | (RS)-Benzyl-4-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-heptanoyloxy]-benzoate | 403 mg | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)OC(C(CCCCC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)=O)=O | C35H42O4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 80 mg | [Pd] | Pd
solvent | pentane | CCCCC | C5H12
product | (RS)-4-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-heptanoyloxy]-benzoic Acid | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(C(=O)OC1=CC=C(C(=O)O)C=C1)CCCCC)C | C28H36O4
